US07049312B1
Synthesis of 5-acetaminomethylindole-3-carboxaldehyde
Phosphorus oxychloride (0.38 ml, 0.004 mol) was slowly added at 0° C. under nitrogen atmosphere to anhydrous N,N-dimethylformamide (1.9 ml, 0.025 mol). The mixture was stirred for 15 minutes and a solution of 5-acetamino methylindole (0.73 g, 0.0039 mol) in anhydrous N,N-dimethylformamide (4 ml) was added dropwise below 2° C. The mixture was stirred at room temperature for 3 h and diluted with an equal volume of water. The solution was neutralized (pH 8) with 1 N aqueous solution of sodium hydroxide. The mixture was evaporated to dryness under reduced pressure and the residue was recrystallized from ethyl acetate to afford 0.5 g (60%) of the entitled product (mp 182–184° C.).

reactant | Phosphorus oxychloride | 0.004 mol, 0.38 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-acetamino methylindole | 0.0039 mol, 0.73 g | N(C(=O)C)CC=1C=C2C=CNC2=CC1 | C11H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 0.025 mol, 1.9 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-acetaminomethylindole-3-carboxaldehyde | 0.5 g, 60% | N(C(=O)C)CC=1C=C2C(=CNC2=CC1)C=O | C12H12N2O2
